US08067620B2
Step 1. To a solution of N-(2-hydroxyethyl)piperazine (2.00 g, 15.36 mmol) in 1,2-dichloroethane (50 ml) at 0° C. was added dropwise a solution of thionyl chloride (5 ml) in 1,2-dichloroethane (5 ml). After the addition, the reaction mixture was refluxed for 4 h and cooled to rt. After the solvent was removed under vacuum, the residue was triturated with ether (50 ml). The resulting precipitate was filtered, washed with ether (3×25 ml), and dried at 50° C. to afford N-(2-chloroethyl)piperazine dihydrochloride (3.20 g, 95%) as a colorless solid. Step 2. To a solution of N-(2-chloroethyl)piperazine dihydrochloride (1.00 g, 4.54 mmol) and triethylamine (6.3 ml, 45.5 mmol) in 1,2-dichloroethane (25 ml) at 0° C. was added dropwise a solution of methanesulfonyl chloride (1.04 g, 9.08 mmol) in 1,2-dichloroethane (10 ml). After the reaction mixture was stirred at rt overnight, it was quenched with water (25 ml). The organic layer was washed with water (3×25 ml) and dried over MgSO4. Removal of the solvent under vacuum furnished 1-(2-chloroethyl)-4-(methanesulfonyl)piperazine (0.87 g, 85%) as a viscous oil. 1H NMR (500 MHz, CDCl3) δ 2.63-2.65 (m, 4H), 2.77-2.8 (m, 5H), 3.27 (t, J=4.9 Hz, 4H), 3.59 (t, J=6.8 Hz, 2H). Step 3. To a solution of OZ288 (0.50 g, 1.40 mmol) in dry acetonitrile (50 ml) were added powdered NaOH (0.17 g, 4.21 mmol) and tetrabutylammonium hydrogensulfate (0.10 g, 0.28 mmol). After the reaction mixture was stirred at rt for 30 min, a solution of 1-(2-chloroethyl)-4-(methanesulfonyl)piperazine (0.48 g, 2.10 mmol) in acetonitrile (5 ml) was added. After the reaction mixture was stirred at 60° C. overnight and cooled to rt, the inorganic solid was filtered off and washed with EtOAc (2×25 ml). After the filtrate was concentrated, the residue was dissolved in EtOAc (50 ml). The organic layer was washed with water and brine and dried over MgSO4. After removal of the solvent, the residue was purified by chromatography (silica gel, 50% EtOH in EtOAc) to afford the free base (0.49 g, 64%) as a colorless solid. 1H NMR (500 MHz, CDCl3) δ 1.62-2.04 (m, 22H), 2.46-2.54 (m, 1H), 2.69 (t, J=4.9 Hz, 4H), 2.77 (s, 3H), 2.84 (t, J=5.4 Hz, 2H), 3.26 (t, J=4.9 Hz, 4H), 4.07 (t, J=5.4 Hz, 2H), 6.82 (d, J=8.8 Hz, 2H), 7.11 (d, J=8.3 Hz, 2H). To a solution of the above free base (0.49 g, 0.9 mmol) in EtOAc (10 ml) at 0° C. was added dropwise a solution of methanesulfonic acid (0.08 g, 0.81 mmol) in ether (10 ml). The resulting precipitate was filtered, washed with ether (3×10 ml), and dried under vacuum at 40° C. to afford trioxolane OZ485 (0.52 g, 90%) as a colorless solid. mp 140-142° C.; 1H NMR (500 MHz, DMSO-d6) δ 1.48-1.59 (m, 2H), 1.61-1.96 (m, 20H), 2.37 (s, 3H), 2.52-2.62 (m, 1H), 3.02 (s, 3H), 3.11-3.34 (m, 4H), 3.57-3.79 (m, 6H), 4.33 (brs, 2H), 6.95 (d, J=7.8 Hz, 2H), 7.17 (d, J=7.8 Hz, 2H), 9.95 (brs, 1H); 13C NMR (125.7 MHz, DMSO-d6) δ 25.99, 26.40, 31.47, 34.26, 34.44, 35.26, 35.97, 36.26, 39.94, 40.89, 42.52, 51.21, 54.73, 62.24, 108.30, 110.74, 114.89, 127.74, 139.14, 155.99. Anal. Calcd for C30H46N2O9S2.0.3H2O: C, 56.05; H, 7.21; N, 4.36. Found: C, 55.48; H, 7.25; N, 4.04.

reactant | N-(2-chloroethyl)piperazine dihydrochloride | 4.54 mmol, 1.00 g | Cl.Cl.ClCCN1CCNCC1
reactant | triethylamine | 45.5 mmol, 6.3 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.08 mmol, 1.04 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1-(2-chloroethyl)-4-(methanesulfonyl)piperazine | 0.87 g, 85% | ClCCN1CCN(CC1)S(=O)(=O)C | C7H15ClN2O2S
